US09034866B2
10-Fluoro-9-bromo-3-iodo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxamide
9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide (20.00 g, 59.5 mmol) and N-iodosuccinimide (2.00 equiv., 27.60 g, 119 mmol) were dissolved in DMF (300 mL, 5 mL/mmol) and stirred at 70° C. overnight. After 24 hours, the solution was concentrated in vacuo and diluted with water, then triturated for 1 hour and filtered. The solid was redissolved in ethyl acetate, triturated for 1 hour, and filtered to afford 23.93 g (87% yield) of the titled compound as a light orange solid, 1H NMR (400 MHz, DMSO) δ 8.92 (d, J=7.4 Hz, 1H), 7.74 (br s, 1H), 7.37 (d, J=9.5 Hz, 1H), 7.16 (br s, 1H), 5.12 (td, J=6.7, 4.1 Hz, 1H), 3.68 (td, J=7.6, 4.1 Hz, 1H), 3.25-3.11 (m, 2H), 1.78-1.64 (m, 2H).

reactant | 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxamide | 59.5 mmol, 20.00 g | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)C(=O)N | C14H11BrFN3O
reactant | N-iodosuccinimide | 119 mmol, 27.60 g, 2.00 equiv. | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 10-Fluoro-9-bromo-3-iodo-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxamide | 23.93 g, 87% yield | FC=1C(=CC=2C3=NC(=C(N3C3CC(C2C1)C3)I)C(=O)N)Br | C14H10BrFIN3O
